US08685964B2
Step 2: N-Hydroxy-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine
With heating, 0.4 g (1.4 mmol) of 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbothioamide were dissolved in 40 ml of dioxane-THF 1:3, 0.4 ml of hydroxylamine (50% strength aqueous solution, corresponds to 6.8 mmol) was added and the mixture was stirred at 60° C. for 1 h and then concentrated by evaporation. The crude product obtained in this manner was not purified any further.

reactant | 6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carbothioamide | 1.4 mmol, 0.4 g | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)C(N)=S | C14H11N5S
reactant | hydroxylamine | 6.8 mmol, 0.4 ml | NO | H3NO
solvent | dioxane THF | 40 ml | O1CCOCC1.C1CCOC1
product | N-Hydroxy-6-(1-pyridin-3-yl-1H-pyrazol-4-yl)pyridine-2-carboxamidine | ONC(=N)C1=NC(=CC=C1)C=1C=NN(C1)C=1C=NC=CC1 | C14H12N6O
